US05250551
2nd step: 5-[4-(3-chloro benzyloxy) phenyl] tetrazole (IIIa)
To a solution of 5×10-2 mole of 4-(3-chloro benzyloxy) benzonitrile in 20 ml of butanol are added 6.6×10-2 mole of sodium azide and 6.6×10-2 of acetic acid. Then the reaction mixture is heated to reflux for four days. 1 g of sodium azide, 2 g of acetic acid and 10 ml of butanol are added and the medium is again heated for two days at reflux. After concentrating by evaporating the solvent, the residue is taken up in 20 ml of 10% aqueous NaOH. After filtration, the aqueous phase is extracted with ether. By acidification of the alkaline solution using HCl 2N, the expected compound precipitates and is recrystallized in methanol.

reactant | 4-(3-chloro benzyloxy) benzonitrile | 5×10-2 mole | ClC=1C=C(COC2=CC=C(C#N)C=C2)C=CC1 | C14H10ClNO
reactant | sodium azide | 6.6×10-2 mole | [N-]=[N+]=[N-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium azide | 1 g | [N-]=[N+]=[N-].[Na+]
reactant | acetic acid | 2 g | C(C)(=O)O | C2H4O2
solvent | butanol | 20 ml | C(CCC)O | C4H10O
solvent | butanol | 10 ml | C(CCC)O | C4H10O
product | 5-[4-(3-chloro benzyloxy) phenyl] tetrazole | ClC=1C=C(COC2=CC=C(C=C2)C2=NN=NN2)C=CC1 | C14H11ClN4O
